US08404649B2
To a solution of 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(3,3,3-trifluoro-2-oxopropyl)-1-naphthamide (Preparation 11, 100 mg, 0.2 mmol) in EtOH (5 mL) was added hydroxylamine.HCl (30 mg, 0.4 mmol), water (1 mL), and KOAc (40 mg, 0.4 mmol). Reaction was heated to 130° C. for 40 minutes in a microwave. Water was added to the crude reaction and extracted with EtOAc (2×75 mL). The combined organics were dried (Na2SO4) and concentrated under vacuum. The crude material was chromatographed (24 g Redi-Sep column) eluting from 100% EtOAc to 50:50 EtOAc:heptane to afford (E)-4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(3,3,3-trifluoro-2-(hydroxyimino)-propyl)-1-naphthamide (52 mg, 51%) as a solid. 1HNMR (CDCl3) δ ppm: 9.06 (1H), 8.81 (1H), 8.26 (1H), 7.71-7.57 (4H), 7.51 (1H), 6.48 (1H), 4.64 (2H) 4.28 (1H), 3.89 (1H); m/z (Cl) 596 [M+H]+.

reactant | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(3,3,3-trifluoro-2-oxopropyl)-1-naphthamide | 0.2 mmol, 100 mg | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCC(C(F)(F)F)=O)C(F)(F)F | C24H13Cl2F7N2O3
reactant | hydroxylamine | NO | H3NO
reactant | HCl | 0.4 mmol, 30 mg | Cl | ClH
reactant | KOAc | 0.4 mmol, 40 mg | CC(=O)[O-].[K+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | Water | O | H2O
solvent | water | 1 mL | O | H2O
product | (E)-4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(3,3,3-trifluoro-2-(hydroxyimino)-propyl)-1-naphthamide | 52 mg, 51% | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NC\C(\C(F)(F)F)=N/O)C(F)(F)F | C24H14Cl2F7N3O3
